US09024044B2
Step 1. Synthesis of N-allyltaurine isopropyl ester
2-Chloroethylsulfonyl chloride (2 g, 12.3 mmol) was dissolved in 2-propanol (20 mL), pyridine (2.7 mL) was added, and the mixture was stirred at room temperature for 3 hours. Allylamine hydrochloride (1.15 g, 12.3 mmol) and diisopropylethylamine (6.4 ml) was added, and stirred at room temperature for 3 hours. The reaction mixture was evaporated under reduced pressure, 5% sodium bicarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound (0.5 g, 2.4 mmol, 20%).

reactant | 2-Chloroethylsulfonyl chloride | 12.3 mmol, 2 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | pyridine | 2.7 mL | N1=CC=CC=C1 | C5H5N
reactant | Allylamine hydrochloride | 12.3 mmol, 1.15 g | Cl.C(C=C)N
reactant | diisopropylethylamine | 6.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-propanol | 20 mL | CC(C)O | C3H8O
product | N-allyltaurine isopropyl ester | 2.4 mmol, 0.5 g, 20% | C(C)(C)OS(CCNCC=C)(=O)=O | C8H17NO3S
